US07417057B2
Step B Synthesis of 4-(4-Methoxy-3-methylphenyl)butan-1-ol as an Intermediate
This compound was prepared in a manner analogous to that of Step E of Example 1, by the hydrogenation of 1.4 grams (0.0074 mole) of 4-(4-methoxy-3-methylphenyl)but-3-yn-1-ol in the presence of 0.05 gram (catalyst) of 10% palladium on carbon in 150 mL of methanol. The reaction product was purified by column chromatography on silica gel using mixtures of hexane and ethyl acetate as an eluant. The appropriate fractions of eluate were combined and concentrated under reduced pressure, yielding 0.8 gram of subject compound. The NMR spectrum was consistent with the proposed structure. This reaction was repeated on a larger scale.

reactant | 4-(4-methoxy-3-methylphenyl)but-3-yn-1-ol | 0.0074 mole, 1.4 grams | COC1=C(C=C(C=C1)C#CCCO)C | C12H14O2
catalyst | palladium on carbon | 0.05 gram | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | 4-(4-Methoxy-3-methylphenyl)butan-1-ol | 0.8 gram | COC1=C(C=C(C=C1)CCCCO)C | C12H18O2
